US07105507B2
1-(1,1-Dimethylethyl) 4-Phenylmethyl 4-(3-Hydroxypropyl)-1,4-piperidinedicarboxylate
A solution of 1-(1,1-dimethylethyl) 4-phenylmethyl 4-(3-butenyl)-1,4-piperidinedicarboxylate (Description 135, 1.06 g, 2.84 mmol) in dichloromethane/methanol (50:50, 20 mL) was cooled to −78° C. and oxygen was bubbled through the mixture for 10 minutes. Ozone was bubbled through the mixture until a blue coloration persisted. Oxygen was bubbled through the mixture for 10 minutes, then nitrogen for 10 minutes. Sodium borohydride (1.1 g, 28.9 mmol) was added over 5 minutes and the mixture was allowed to warm to room temperature. The solvent was evaporated under reduced pressure and water (40 mL) was added. The mixture was extracted with ethyl acetate (3×40 mL), the combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure to give the title compound (1.06 g, 99%). 1H NMR (400 MHz, CDCl3) δ 7.4–7.3 (5H, m), 5.15 (2H, s), 3.95–3.75 (2H, m), 3.52 (2H, t, J 7 Hz), 2.95–2.80 (2H, m), 2.12 (2H, br d, J 10 Hz), 1.65–1.30 (7H, m), and 1.44 (9H, s).

reactant | 1-(1,1-dimethylethyl) 4-phenylmethyl 4-(3-butenyl)-1,4-piperidinedicarboxylate | 2.84 mmol, 1.06 g | C(CC=C)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C22H31NO4
reactant | Sodium borohydride | 28.9 mmol, 1.1 g | [BH4-].[Na+]
reactant | dichloromethane methanol | 20 mL | ClCCl.CO
product | 1-(1,1-Dimethylethyl) 4-Phenylmethyl 4-(3-Hydroxypropyl)-1,4-piperidinedicarboxylate | 1.06 g, 99% | OCCCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C21H31NO5
